US04880808
64 Parts of thionyl chloride were added portionwise to 4 parts of ε-(4-fluorophenyl)-3-pyridinepentanol. Upon complete addition, stirring was continued for 2 hours at reflux temperature. The reaction mixture was evaporated and the residue was taken up in water. The whole was treated with sodium carbonate. The product was extracted twice with methylbenzene. The combined extracts were washed with water, dried, filtered and evaporated, yielding 3.7 parts (100%) of 3-[5-chloro-1-(4-fluorophenyl)pentyl]pyridine as a residue (int. 57).

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ε-(4-fluorophenyl)-3-pyridinepentanol | FC1=CC=C(C=C1)C(CCCCO)C=1C=NC=CC1 | C16H18FNO
product | 3-[5-chloro-1-(4-fluorophenyl)pentyl]pyridine | 100% | ClCCCCC(C1=CC=C(C=C1)F)C=1C=NC=CC1 | C16H17ClFN
